US08304446B2
(2S)—N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]-2-hydroxypropanamide (S-enantiomer of Example 37)
A suspension of N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride (for a preparation see Intermediate 4) (100 mg, 0.2 mmol) in DCM (5 mL) and triethylamine (0.28 mL, 2 mmol) was treated with the (S)-2-acetoxypropionyl chloride (0.065 mL). After 4 h, the solvent was removed by evaporation and the residue was dissolved in methanol (10 mL) and then treated with solid potassium carbonate (277 mg, 2 mmol) and the mixture was stood at RT for 3 days. The mixture was concentrated under reduced pressure, and the residue was partitioned between 2M HCl and ethyl acetate. The organic solution was washed with more HCl, brine and dried (MgSO4). The filtrate was evaporated under reduced pressure to give a white solid (113 mg). The sample was dissolved in 1:1 MeOH-DMSO 2 mL and purified by Mass Directed AutoPrep on Sunfire C18 column using Acetonitrile Water with a Formic acid modifier (Method A). The solvent was evaporated in vacuo to give the title compound (86 mg, 80%): LCMS (System A) RT=0.97 min, 100%, ES+ve m/z 535/537 (M+H)+; NMR δ (CD3OD) 7.27-7.15 (5H, m), 7.05 (1H, br d, J 7 Hz), 6.97 (1H, d, J 8 Hz), 6.89 (1H, d, J 4 Hz), 6.42 (1H, d, J 8 Hz), 5.47 (2H, s), 4.33 (2H, s), 4.12 (1H, q, J 7 Hz), 3.76 (3H, s), 1.30 (3H, d, J 7 Hz).

reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride | Cl.NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)OC)NS(=O)(=O)C=1SC(=CC1)Cl
reactant | triethylamine | 2 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-2-acetoxypropionyl chloride | 0.065 mL | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
reactant | potassium carbonate | 2 mmol, 277 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S)—N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]-2-hydroxypropanamide | 113 mg | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)CC=1C=C(C=CC1)CNC([C@H](C)O)=O | C23H23ClN4O5S2
